US08486943B2
[(S)-7-Cyano-4-((2R,3S)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
A solution of (2R,3S)-2-((S)-7-cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.04 mmol) in methanol (20 mL) is treated with 4 N hydrogen chloride in 1,4-dioxane (20 mL), stirred at room temperature for 3 h and concentrated. The residue is suspended in ethyl acetate (200 mL) and treated with 2 N aqueous sodium hydroxide solution (20 mL). The organic layer is washed with brine, dried over sodium sulfate, and concentrated. The resulting residue is purified by medium pressure liquid chromatography, eluting with methanol:chloroform (5:95). Fractions containing pure product are combined and concentrated to afford 0.38 g (96%) of the title compound. LC-ES/MS/MS m/z 383.2 [M+H]+, TR=1.86 min.

reactant | (2R,3S)-2-((S)-7-cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-3-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.04 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)CN1C2=C(C=3C=C(C=CC13)C#N)C[C@@H](C2)NC(=O)OC(C)C | C26H34N4O5
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | [(S)-7-Cyano-4-((2R,3S)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 0.38 g, 96% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)C[C@H]2NCC[C@@H]2O)C1)=O | C21H26N4O3
